US05681833
3. 3(R,S)-[(Benzyloxycarbonyl)amino]-5-cyclohexyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one
To a refluxing solution of 3(R,S)-[(benzyloxycarbonyl)amino]-5-cyclohexyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one (5 g) in anhydrous toluene (400 ml) was added dimethylformamide dimethylacetal (7.3 ml) and the mixture was refluxed for 3.5 hours under nitrogen before additional dimethylformamide dimethyl acetal (1 ml) was added. After a further 50 minutes at reflux, solvents were removed under vacuum and the residue was triturated with diethyl ether (50 ml). The white solid was collected by filtration, washed with diethyl ether (2×20 ml) and dried to give the title compound (5 g); mp 205°-207° C.; dH (360 MHz, CDCl3) 7.55-7.25 (9H, m), 6.52 (1H, d, J=8.0 Hz), 5.10 (3H, m), 3.36 (3H, s), 2.76 (1H, m), 2.04-1.03 (10H, m).

reactant | 3(R,S)-[(benzyloxycarbonyl)amino]-5-cyclohexyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 5 g | C(C1=CC=CC=C1)OC(=O)NC1C(NC2=C(C(=N1)C1CCCCC1)C=CC=C2)=O | C23H25N3O3
reactant | dimethylformamide dimethylacetal | 7.3 ml | COC(N(C)C)OC | C5H13NO2
reactant | dimethylformamide dimethyl acetal | 1 ml | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 3(R,S)-[(Benzyloxycarbonyl)amino]-5-cyclohexyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 5 g | C(C1=CC=CC=C1)OC(=O)NC1C(N(C2=C(C(=N1)C1CCCCC1)C=CC=C2)C)=O | C24H27N3O3
